US20010053779A1
A mixture of 5-(4-phenylbutoxy)benzene-1,2-diamine (0.06 g, 0.234 mmol) and ethyl 5-(1,3-dioxo-1,3-dihydroisoindol-2-ylmethyl)-1H-benzoimidazol-2-ylacetate (0.1 g, 0.234 mmol) was heated 1 hour at 185° C. under nitrogen. The mixture was suspended in diethyl ether, stirred vigorously for 1 hour. The solids were collected by filtration, washed with diethyl ether and dried to provide 2-{2-[5-(4-phenylbutoxy)-1H-benzoimidazol-2-ylmethyl]-3H-benzoimidazol-5-ylmethyl}isoindole-1,3-dione (0.1 g, 0.18 mmol).

reactant | 5-(4-phenylbutoxy)benzene-1,2-diamine | 0.234 mmol, 0.06 g | C1(=CC=CC=C1)CCCCOC1=CC=C(C(=C1)N)N | C16H20N2O
reactant | ethyl 5-(1,3-dioxo-1,3-dihydroisoindol-2-ylmethyl)-1H-benzoimidazol-2-ylacetate | 0.234 mmol, 0.1 g | O=C1N(C(C2=CC=CC=C12)=O)CC1=CC2=C(NC(=N2)CC(=O)OCC)C=C1 | C20H17N3O4
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-{2-[5-(4-phenylbutoxy)-1H-benzoimidazol-2-ylmethyl]-3H-benzoimidazol-5-ylmethyl}isoindole-1,3-dione | 0.18 mmol, 0.1 g | C1(=CC=CC=C1)CCCCOC1=CC2=C(NC(=N2)CC=2NC3=C(N2)C=CC(=C3)CN3C(C2=CC=CC=C2C3=O)=O)C=C1 | C34H29N5O3
